US05635509
5-[(1RS,2RS)-2-(3,4-Dichlorophenyl)-1-hydroxy-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenylpyrazole
5-[(1RS,2RS)-1-Acetoxy-2-(3,4-dichlorophenyl)-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenylpyrazole. Using a procedure similar to that described in Example 7, except using 4-acetamido-4-phenylpiperidine as the amine component and 5-[(1RS,2RS)-1-acetoxy-2-(3,4-dichlorophenyl)-4-oxobutyl]-1-phenylpyrazole as the aldehyde component, the title compound was obtained as a white foam (65%; NMR: 7.58 (d,1), 7.48-7.21 (m,11), 7.09 (d, 1), 6.81 (dd, 1), 6.22 (d, 1), 6.09 (d, 1), 5.39 (s,1), 3.06 (m,1), 2.51 (m,2), 2.31 (m,2), 2.15-2.00 (m,7), 1.98 (s,3), 1.96 (s,3), 1.75 (m,1), 1.43 (m,1).

reactant | 5-[(1RS,2RS)-1-Acetoxy-2-(3,4-dichlorophenyl)-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenylpyrazole | C(C)(=O)OC(C(CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=NN1C1=CC=CC=C1 | C34H36Cl2N4O3
reactant | 4-acetamido-4-phenylpiperidine | C(C)(=O)NC1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
reactant | 5-[(1RS,2RS)-1-acetoxy-2-(3,4-dichlorophenyl)-4-oxobutyl]-1-phenylpyrazole | C(C)(=O)OC(C(CC=O)C1=CC(=C(C=C1)Cl)Cl)C1=CC=NN1C1=CC=CC=C1 | C21H18Cl2N2O3
product | 5-[(1RS,2RS)-2-(3,4-Dichlorophenyl)-1-hydroxy-4-(4-acetamido-4-phenylpiperidino)butyl]-1-phenylpyrazole | ClC=1C=C(C=CC1Cl)C(C(O)C1=CC=NN1C1=CC=CC=C1)CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O | C32H34Cl2N4O2
